US06228877B1
A mixture of DMF (7 mL, 90 mm) and POCl3 (2.25 mL, 24.5 mmol) which had been cooled to 5° C., was treated with known 6-methoxy-1H-indole. After stirring at room temperature for 1 hour, the mixture was heated at 45° C. for 1 hour, then allowed to cool to room temperature overnight. The reaction mixture was poured into ice (100 mL), and stirred for 30 minutes at which time a solution of KOH (9.6 g, 171 mm) in H2O (20 mL) was added dropwise. After stirring for 30 minutes, then heating for 1 hour at 60° C., the reaction was cooled to 30° C., and the pH adjusted to 7 with 1N HCl. The mixture was extracted with EtOAc(50 mL×3), the organic fractions were combined, dried over MgSO4, filtered and evaporated. The residue was purified by crystallization from methanol to afford 6-methoxy-1H-indole-3-carboxaldehyde (1.65 g, 69%).

reactant | POCl3 | 24.5 mmol, 2.25 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 6-methoxy-1H-indole | COC1=CC=C2C=CNC2=C1 | C9H9NO
reactant | KOH | 9.6 g | [OH-].[K+]
reactant | HCl | 1N | Cl | ClH
reactant | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | H2O | 20 mL | O | H2O
product | 6-methoxy-1H-indole-3-carboxaldehyde | 1.65 g, 69% | COC1=CC=C2C(=CNC2=C1)C=O | C10H9NO2
